US06548514B1
N-[6-(4-ethylpiperazin-1-yl)pyrid-3-yl]-2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzamide
2-Chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzoic acid (0.162 g) was added to a stirred mixture of 5-amino-2-(4-ethylpiperazin-1-yl)pyridine (0.093 g), diisopropylethylamine (0.232 g), 2-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate(V) (0.176 g) and DMF (10 ml) and the mixture was stirred at ambient temperature for 16 hours. The mixture was partitioned between ethyl acetate and water. The organic phase was washed with a saturated aqueous sodium bicarbonate solution and evaporated. The residue was triturated under a mixture of isohexane and ethyl acetate. The resultant solid was isolated and dried under vacuum at 40° C. to give the title compound (0.071 g); NMR Spectrum: (DMSOd6) 1.02 (t, 3H), 2.34 (m, 2H), 2.4-2.46 (m, 4H), 3.38-3.42 (m, 4H), 3.5-3.53 (m, 4H), 3.69-3.71 (m, 4H), 6.82 (d, 1H), 7.08 (d, 2H), 7.22 (s, 1H), 7.62 (d, 1H), 7.82-7.98 (m, 3H), 8.28 (d, 1H), 8.39 (s, 1H); Mass Spectrum: M+H+ 550 and 552.

reactant | 2-Chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzoic acid | 0.162 g | ClC1=C(C(=O)O)C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H16ClN3O4
reactant | 5-amino-2-(4-ethylpiperazin-1-yl)pyridine | 0.093 g | NC=1C=CC(=NC1)N1CCN(CC1)CC | C11H18N4
reactant | diisopropylethylamine | 0.232 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-[6-(4-ethylpiperazin-1-yl)pyrid-3-yl]-2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzamide | 0.071 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)NC(C1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)Cl)=O | C28H32ClN7O3
